US04166131
2,2-diethyl-5-indanacetic acid
2,2-diethyl-α-oxo-5-indanacetic acid methyl ester is reduced in a manner analogous to that described in Example 4. The (1,3-dihydroxy-2-hydroxymethyl-2-propyl)ammonium salt of the title compound has an M.P. of 116°-119°.

reactant | 2,2-diethyl-α-oxo-5-indanacetic acid methyl ester | COC(C(C=1C=C2CC(CC2=CC1)(CC)CC)=O)=O | C16H20O3
reactant | (1,3-dihydroxy-2-hydroxymethyl-2-propyl)ammonium | OCC(CO)(CO)[NH3+]
product | 2,2-diethyl-5-indanacetic acid | C(C)C1(CC2=CC=C(C=C2C1)CC(=O)O)CC | C15H20O2
